US08198279B2
2-(3-Tert-butyl-5-carboxy-1H-pyrazol-1-yl)-N,N-dimethylethanaminium chloride
Ethyl 3-tert-butyl-1-(2-(dimethylamino)ethyl)-1H-pyrazole-5-carboxylate (98 mg, 0.367 mmol) was dissolved in 6M aqueous HCl (4 mL, 24.00 mmol) and the colorless solution was heated to 80° C. for 72 h. The volatiles were evaporated in vacuo and the resulting white solid was coevaporated with Et2O 10 mL) to give the title compound as a white solid. Yield: 100 mg (99%).

reactant | Ethyl 3-tert-butyl-1-(2-(dimethylamino)ethyl)-1H-pyrazole-5-carboxylate | 0.367 mmol, 98 mg | C(C)(C)(C)C1=NN(C(=C1)C(=O)OCC)CCN(C)C | C14H25N3O2
reactant | HCl | 24.00 mmol, 6M, 4 mL | Cl | ClH
product | 2-(3-Tert-butyl-5-carboxy-1H-pyrazol-1-yl)-N,N-dimethylethanaminium chloride | [Cl-].C(C)(C)(C)C1=NN(C(=C1)C(=O)O)CC[NH+](C)C | InChI=1S/C12H21N3O2.ClH/c1-12(2,3)10-8-9(11(16)17)15(13-10)7-6-14(4)5;/h8H,6-7H2,1-5H3,(H,16,17);1H
